US04492659
The 2-methoxy-3-[7-(4-octylphenyl)-heptyloxy]-1-propanol used as starting material is obtained in the following manner: 4-octylbenzene is reacted with the ethyl ester acid chloride of pimelic acid in the presence of aluminium chloride in nitrobenzene to give 7-(4-octylphenyl)-7-oxoheptanoic acid ethyl ester (m.p. 38°-40° C.). Subsequent hydrogenation in the presence of palladium on charcoal in ethanol with the addition of some perchloric acid gives 7-(4-octylphenyl)-heptanoic acid ethyl ester (oily substance), reduction of which with lithium aluminium hydride gives 7-(4-octylphenyl)-heptanol (oily substance). Reaction with phosphorus tribromide gives the corresponding bromide (oil) which is reacted with the monosodium salt of 2-methoxy-1,3-propandiol.

reactant | 2-methoxy-3-[7-(4-octylphenyl)-heptyloxy]-1-propanol | COC(CO)COCCCCCCCC1=CC=C(C=C1)CCCCCCCC | C25H44O3
reactant | 4-octylbenzene | C(CCCCCCC)C1=CC=CC=C1 | C14H22
reactant | pimelic acid | C(CCCCCC(=O)O)(=O)O | C7H12O4
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 7-(4-octylphenyl)-7-oxoheptanoic acid ethyl ester | C(C)OC(CCCCCC(=O)C1=CC=C(C=C1)CCCCCCCC)=O | C23H36O3
